US07189741B2
Preparation of 2-methoxy-5-{4-[1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 1 g (3.2 mmol) of 3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole and 1.15 g (4.2 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard work-up and purification, 1.16 g (76% of yield) of the expected acid were obtained.

reactant | 3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole | 3.2 mmol, 1 g | N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1=CSC=C1 | C19H22N2S
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 4.2 mmol, 1.15 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 2-methoxy-5-{4-[1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | COC1=C(C(=O)O)C=C(C=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1=CSC=C1 | C28H30N2O3S
